US04650514
Sodium acetate (2.40 g, 0.0292 mol) and bromine (7.5 mL, 0.146 mol) are added to a solution of diethyl 3-bromofuro[2,3-b]pyridine-5,6-dicarboxylate (5.00 g, 0.0146 mol) in methylene chloride (150 mL). The mixture is stirred at room temperature for four days then washed with aqueous sodium bisulfate to remove unreacted bromine. The aqueous solution is then back extracted with methylene chloride. The organic solution is combined, dried over sodium sulfate and filtered. To the filtrate is added 1,8-diazabicyclo[5.4.0]undec-7-ene(4.4 mL, 0.032 mol), and the mixture is stirred at room temperature for one hour. The solution is then concentrated in vacuo. The residue is chromatographed over silica gel eluting with 20% ethyl acetate in hexane, yielding the crude 2,3-dibromofuro[2,3-b]pyridine as a white solid in 95% yields recrystallization from a methylene chloride-hexane mixture affords diethyl 2,3-dibromofuro[2,3-b]pyridine-5,6-dicarboxylate mp 96°-98° C. in 75.9% recrystallized yield.

reactant | Sodium acetate | 0.0292 mol, 2.40 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.146 mol, 7.5 mL | BrBr | Br2
reactant | diethyl 3-bromofuro[2,3-b]pyridine-5,6-dicarboxylate | 0.0146 mol, 5.00 g | BrC1=COC2=NC(=C(C=C21)C(=O)OCC)C(=O)OCC | C13H12BrNO5
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.032 mol, 4.4 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | diethyl 2,3-dibromofuro[2,3-b]pyridine-5,6-dicarboxylate | BrC1=C(C=2C(=NC(=C(C2)C(=O)OCC)C(=O)OCC)O1)Br | C13H11Br2NO5
